US05476875
3.6 g of 3,4-dimethoxy-5-nitro-N-phenethylbenzamide are heated under reflux with 36 ml of phosphorus oxychloride under a nitrogen atmosphere for 96 hours. After distilling the excess phosphorus oxychloride in a water-jet vacuum at 60°, the residue is treated three times with 100 ml of toluene each time, with the solvent being distilled each time. The residue is taken up in methylene chloride. The organic phase is washed with water, dried over sodium sulfate and evaporated in a water-jet vacuum. The red resin obtained is chromatographed on 120 g of silica gel with methylene chloride/ethyl acetate (1:1). There is obtained 1-(3,4-dimethoxy-5-nitrophenyl)-3,4-dihydroisoquinoline in the form of a yellow resin.

reactant | 3,4-dimethoxy-5-nitro-N-phenethylbenzamide | 3.6 g | COC=1C=C(C(=O)NCCC2=CC=CC=C2)C=C(C1OC)[N+](=O)[O-] | C17H18N2O5
reactant | phosphorus oxychloride | 36 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-(3,4-dimethoxy-5-nitrophenyl)-3,4-dihydroisoquinoline | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NCCC2=CC=CC=C12 | C17H16N2O4
